US07732446B1
As described in example 1, 112 mg of {6,8-dimethoxy-4-[methyl-(1-phenyl-ethyl)-carbamoyl]-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester was treated with HCl in EtOAc to give 86 mg (97%) of 1-aminomethyl-6,8-dimethoxy-isoquinoline-4-carboxylic acid methyl-(1-phenyl-ethyl)-amide hydrochloride. MS: APCI (M+H) calc'd for C22H25N3O3+H 380.5; found 380.2.

reactant | {6,8-dimethoxy-4-[methyl-(1-phenyl-ethyl)-carbamoyl]-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester | 112 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(N(C(C)C1=CC=CC=C1)C)=O)=O | C27H33N3O5
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-aminomethyl-6,8-dimethoxy-isoquinoline-4-carboxylic acid methyl-(1-phenyl-ethyl)-amide hydrochloride | 86 mg, 97% | Cl.CN(C(=O)C1=CN=C(C2=C(C=C(C=C12)OC)OC)CN)C(C)C1=CC=CC=C1 | InChI=1S/C22H25N3O3.ClH/c1-14(15-8-6-5-7-9-15)25(2)22(26)18-13-24-19(12-23)21-17(18)10-16(27-3)11-20(21)28-4;/h5-11,13-14H,12,23H2,1-4H3;1H
